US07989449B2
4-[1-(3-Bromo-phenyl)-vinyl]-2-chloro-1-methoxy-benzene
A solution of n-butyllithium (1.6 M in hexane, 19.5 mL, 31.3 mmol, 1.16 eq.) was added dropwise over 20 min to a solution of 1,3-dibromobenzene (3.59 mL, 29.7 mmol, 1.1 eq) in 30 mL of dry tetrahydrofuran at −78° C. and under an inert atmosphere. The white suspension formed was stirred at −78° C. for 30 min. A solution of 3-chloro-4-methoxyacetophenone (5 g, 27 mmol, 1.0 eq.) in 20 mL of tetrahydrofuran was then added dropwise and the reaction stirred for 1 h. The reaction mixture was examined by LC-MS which showed the complete formation of tertiary alcohol. The solution was quenched with a saturated solution of ammonium chloride and water. 2 N HCl was then added to reach pH=5. The two phases were separated; the organic layer was dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residual material (tertiary alcohol) was dissolved in a mixture of acetic acid/sulfuric acid (10 mL of acetic acid, 0.3 mL of sulfuric acid) and the reaction mixture was stirred for 3 h at room temperature; then it was examined by LC-MS which showed the complete formation of desired product. The solution was quenched with ice and dichloromethane (20 mL) was added. The two phases formed and were separated. The organic layer was washed with a saturated solution of sodium bicarbonate and brine. It was then dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The crude was purified by flash chromatography eluting with cyclohexane/ethyl acetate (gradient 0-4%). The desired product was obtained as a yellow oil (4.36 g, Yield: 50%).

reactant | n-butyllithium | 31.3 mmol, 1.6 M, 19.5 mL, 1.16 eq. | C(CCC)[Li]
reactant | 1,3-dibromobenzene | 29.7 mmol, 3.59 mL, 1.1 eq | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 3-chloro-4-methoxyacetophenone | 27 mmol, 5 g, 1.0 eq. | CC(=O)C1=CC(=C(C=C1)OC)Cl | C9H9ClO2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-[1-(3-Bromo-phenyl)-vinyl]-2-chloro-1-methoxy-benzene | BrC=1C=C(C=CC1)C(=C)C1=CC(=C(C=C1)OC)Cl | C15H12BrClO
